simulator lang=spice
.global GND
.param w1=120u w2=12u

* Include the model files 
.include "gpdk045"
*a Verilog-A behavioural model for an op-amp
.include "mod_amp/veriloga/veriloga.va"

VDD Vdd 0 DC 1.2

* Block:INVschmitt
.subckt INVschmitt Vout Vin Vdd GND
* PMOS transistor
PM1 N1 Vin Vdd Vdd g45p1svt w=120n l=45n
PM2 Vout Vin N1 Vdd g45p1svt w=120n l=45n  
PM3 0 Vout N1 Vdd g45p1svt w=120n l=45n
* NMOS transistor
NM1 Vout Vin N2 0 g45n1svt w=120n l=45n 
NM2 N2 Vin 0 0 g45n1svt w=120n l=45n  
NM3 Vdd Vout N2 g45n1svt w=120n l=45n 
.ends INVschmitt

* Block:2_NAND
.subckt 2_NAND i1 i2 Vout Vdd GND
NM1 Vout i1 N1 0 g45n1svt w=120n l=45n
NM2 N1 i2 0 0 g45n1svt w=120n l=45n
PM1 Vout i1 Vdd Vdd g45p1svt w=120n l=45n
PM2 Vout i2 Vdd Vdd g45p1svt w=120n l=45n
.ends 2_NAND

* Block:INV
.subckt INV Vout Vin Vdd GND
NM1 Vout Vin 0 0 g45n1svt w=120n l=45n
PM1 Vout Vin Vdd Vdd g45p1svt w=120n l=45n
.ends INV

* Block: TR1
.subckt TR1  Imi Qcmi1 Swmi Vam Vdd GND
* NMOS Transistors
NM1 N1 Qcmi1b 0 0 g45n1svt w=w2 l=45n 
NM2 N1 Vcn 0 0 g45n1svt w=w1 l=45n 
NM3 Imi Swmi N1 0 g45n1svt w=120n l=45n 

* PMOS Transistors
PM1 Imi Swmib N1 Vdd g45p1svt w=120n l=45n 
PM2 N1 Qcmi1b Vdd Vdd g45p1svt w=w2 l=45n 
PM3 N1 Vcp Vdd Vdd g45p1svt w=w1 l=45n 

* Logic gates
XI1 Qcmi1b Qcmi1 INV
XI2 Vcnb Qcmi1b Vam 2_NAND
XI3 Vcp Vam Qcmi1 2_NAND
XI4 Vcn Vcnb INV
XI5 Swmib Swmi INV
.ends TR1

* Block:TR2
.subckt TR2 in out Qcmik Vik Vdd GND
XI5 Vik Vikb INV
XI4 Qcmik Qcmikb INV

* NMOS Transistors
NM4 in N2 out 0 g45n1svt w=120n l=45n 
NM3 Vi2 Qcmikb N2 0 g45n1svt w=120n l=45n 
NM2 N1 Qcmik Vik 0 g45n1svt w=120n l=45n 
NM1 N1 Qcmikb Vikb 0 g45n1svt w=120n l=45n 
NM0 Vikb Qcmik N2 0 g45n1svt w=120n l=45n

*PMOS Transistors
PM4 Vik Qcmik N2 Vdd g45p1svt w=120n l=45n 
PM3 Vikb Qcmikb N2 Vdd g45p1svt w=120n l=45n 
PM2 N1 Qcmik Vikb Vdd g45p1svt w=120n l=45n 
PM1 N1 Qcmikb Vik Vdd g45p1svt w=120n l=45n
PM0 in N1 out Vdd g45p1svt w=120n l=45n
.ends TR2

* Block: XOR
.subckt XOR i1 i2 Out
I3 Out net9 net8 2_NAND
I2 net7 i1 i2 2_NAND
I1 net8 net7 i2 2_NAND
I0 net9 i1 net7 2_NAND
.ends XOR

* Block:3_NAND
.subckt 3_NAND i1 i2 i3 Out Vdd GND
PM2 Out i3 Vdd Vdd g45p1svt w=120n l=45n
PM1 Out i2 Vdd Vdd g45p1svt w=120n l=45n
PM0 Out i1 Vdd Vdd g45p1svt w=120n l=45n
NM2 net16 i3 0 0 g45n1svt w=120n l=45n
NM1 net17 i2 net16 0 g45n1svt w=120n l=45n
NM0 Out i1 net17 0 g45n1svt w=120n l=45n
.ends 3_NAND

*for POS with M-clauses we need an M-input NAND gate for DVC

* Block: sw
.subckt sw out in EN Vdd GND
NM1 in EN out 0 g45n1svt w=120n l=45n
PM1 Out ENb in Vdd  g45p1svt w=120n l=45n
I0 ENb EN INV
.ends sw
